US05025025
Ethyl 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoate is hydrolyzed with 1N aqueous sodium hydroxide and dioxane and the product is purified using preparative thin layer chromatography on silica gel using 4:1 ethyl acetate/hexane/1% acetic acid as eluent to give 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoic acid; 1H NMR (CDCl3): delta 8.16 (br s,1H), 8.08 (d,1H), 4.39 (m,1H), 2.86 (t,2H).

reactant | Ethyl 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC(CCCC(=O)OCC)OC=1C=NC=CC1 | C21H27ClN2O5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 8-(p-chlorophenylsulfonamido)-5-(3-pyridyloxy)-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCC(CCCC(=O)O)OC=1C=NC=CC1 | C19H23ClN2O5S
